US08685980B2
Following Buchwald Method B, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (300 mg, 1.03 mmol) and 6-amino-3′,4′,5′,6′-tetrahydro-2′H-[3,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester (313 mg, 1.13 mmol), followed by deprotection using General Procedure A to give 7-cyclopentyl-2-(1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (212 mg, 48%). MS (ESI) m/z 434.3 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 1.03 mmol, 300 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 6-amino-3′,4′,5′,6′-tetrahydro-2′H-[3,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 1.13 mmol, 313 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C=NC(=CC1)N | C15H23N3O2
product | 7-cyclopentyl-2-(1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 212 mg, 48% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=CC=C(C=N2)C2CCNCC2)N1C1CCCC1)C | C24H31N7O
